US06320050B1
A solution of freshly prepared lithium diisopropylamide (58.5 mL of a 0.93M stock solution, 53.2 mmol) cooled to −78° C. was treated with (4-methoxy-phenyl)-acetic acid (4.21 g, 25.35 mmol) in tetrahydrofuran/ 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone (25.3 mL, 3:1). The resulting solution was stirred at −78° C. for 45 min. At this time, the reaction was treated with a solution of iodomethylcyclopentane (5.85 g, 27.8 mmol) in 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone (1 mL). The reaction mixture was stirred at −78° C. for 45 min and at 0° C. for 1 h. The reaction was then warmed to 25° C. and was stirred at 25° C. for 16 h. The reaction mixture was then quenched by the dropwise addition of saturated aqueous ammonium chloride solution (10 mL). The excess solvent was removed in vacuo. The residue was acidified to pH=1 with a 1N aqueous hydrochloric acid solution. This mixture was poured into water (50 mL) and extracted with ethyl acetate (3×50 mL). The organics were washed with a saturated aqueous lithium chloride solution (1×100 mL), dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 70/30 hexanes/ethyl acetate) afforded 3-cyclopentyl-2-(4-methoxy-phenyl)-propionic acid (2.76 g, 43.8%) as a yellow solid: mp 119-121° C.; EI-HRMS m/e calcd for C15H20O3(M+) 248.1412 found 248.1415.

reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | (4-methoxy-phenyl)-acetic acid | 25.35 mmol, 4.21 g | COC1=CC=C(C=C1)CC(=O)O | C9H10O3
reactant | iodomethylcyclopentane | 27.8 mmol, 5.85 g | ICC1CCCC1 | C6H11I
solvent | tetrahydrofuran 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 25.3 mL | O1CCCC1.CN1C(N(CCC1)C)=O
solvent | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 1 mL | CN1C(N(CCC1)C)=O | C6H12N2O
product | 3-cyclopentyl-2-(4-methoxy-phenyl)-propionic acid | 2.76 g, 43.8% | C1(CCCC1)CC(C(=O)O)C1=CC=C(C=C1)OC | C15H20O3
